US04206120
3-(4-Methylthio-2-oxoazetidin-1-yl)-1-[p-(p-methoxybenzyloxycarbonyl)-phenyl]-prop-1yne
4-Methylthioazetidin-2-one (470 mg., 4 mmole) and 3-bromo-1-[p-(p-methoxybenzyloxycarbonyl)-phenyl]-prop-1-yne (1.44 g., 4 mmole) were converted into the title compound using the process described in Example 22.1. The title compound was obtained as a colourless gum (410 mg., 27% yield). νmax (CHCl3): 1760 (β-lactam C=O), 1720 (ester C=O), 1610 and 1515 (aromatic C=C) cm-1. δ(CDCl3): 2.10 (s, 3H, SCH3), 2.91 (dd, J 15.5, J' 2 Hz, 1H, β-lactam CHH), 3.34 (dd, J 15.5, J' 5 Hz, 1H, β-lactam CHH), 3.72 (s, 3H, OCH3), 3.92 (d, J 17 Hz, 1H, NCHH), 4.40 (d, J 17 Hz, 1H, NCHH), 4.72 (dd, J 5, J' 2 Hz, 1H, β-lactam CH), 5.35 (s, 2H, OCH2Ar), 6.93 (d, J 8 Hz, 2H, Ar-H), 7.42 (d, J 8 Hz, 2H, Ar-H), 7.48 (d, J 8.5 Hz, 2H, Ar-H), 8.03 (d, J 8.5 Hz, 1H, Ar-H).

reactant | 4-Methylthioazetidin-2-one | 4 mmole, 470 mg | CSC1CC(N1)=O | C4H7NOS
reactant | 3-bromo-1-[p-(p-methoxybenzyloxycarbonyl)-phenyl]-prop-1-yne | 4 mmole, 1.44 g | BrCC#CC1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)OC | C18H15BrO3
product | 3-(4-Methylthio-2-oxoazetidin-1-yl)-1-[p-(p-methoxybenzyloxycarbonyl)-phenyl]-prop-1yne | CSC1CC(N1CC#CC1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)OC)=O | C22H21NO4S
